US05808108
3,9-Diacetoxymethyl-3,9-dimethyl-1,5,7,11-tetraoxaspiro[5.5]undecane (DAMDM)
A 100 mL one-neck round-bottom flask was charged with 3,9-dihydroxymethyl-3,9-dimethyl-1,5,7,11-tetraoxaspiro[5.5]undecane prepared as in Example 2 (DHMDM-SOC, 4.6 g, 0.0185 mol) and pyridine (25 mL) under N2. After DHMDM-SOC was dissolved, acetic anhydride (26.2 mL, 0.28 mole) was added. The mixture was stirred at room temperature for 4 h. TLC (1:3 Hexanes:EtOAc) revealed the disappearance of DHMDM-SOC and a new product spot (Rf~0.6). Pyridine and unreacted acetic anhydride were removed under reduced pressure using rotary evaporator. The residue was off-white solid as crude product. It was purified by recrystallization from cyclohexane. The solid was dissolved in ~300 mL of cyclohexane, and the solution was cooled to room temperature, kept in refrigerator overnight to crystallize. The crystals were collected by filtration, washed with cyclohexane (3×20 mL), and dried in vacuo, giving 5.7 g of white crystals as product (93.4 % of theory). m.p. (DSC): 137.4° C.; 1H NMR (CDCl3, 75 Mhz) δ0.87 (s, 6H), 2.05 (s, 6H); 3.65-3.80 (m, 8H), 4.12 (s, 4H); 13C NMR (CDCl3, 75 MHz) δ1711, 20.73, 32.88, 66.17, 67.87, 68.26, 114,20, 170.78. Anal. calcd. for C15H24O8 ; C, 54.21; H, 7.28. Found: C, 54.31; H, 7.48.

reactant | 3,9-dihydroxymethyl-3,9-dimethyl-1,5,7,11-tetraoxaspiro[5.5]undecane | OCC1(COC2(OC1)OCC(CO2)(C)CO)C | C11H20O6
reactant | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.28 mole, 26.2 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | 3,9-Diacetoxymethyl-3,9-dimethyl-1,5,7,11-tetraoxaspiro[5.5]undecane | 5.7 g | C(C)(=O)OCC1(COC2(OC1)OCC(CO2)(C)COC(C)=O)C | C15H24O8
